US05958663
Preparation of 1-[4-(1,1-dioxo-thiomorpholin-4-yl)-phenoxy]-3-(isododecyloxy)-propan-2-ol (108)
4-(1,1-dioxo-thiomorpholin-4-yl)phenol (2.3 g, 10 mmol), isododecylglycidyl ether (2.4 g, 10 mmol) and ethyltriphenylphosphonium bromide (0.2 g) are reacted and purified as described for compound 102 to afford a light yellow liquid 1.4 g (30%).

reactant | 4-(1,1-dioxo-thiomorpholin-4-yl)phenol | 10 mmol, 2.3 g | O=S1(CCN(CC1)C1=CC=C(C=C1)O)=O | C10H13NO3S
reactant | isododecylglycidyl ether | 10 mmol, 2.4 g | C(CCCCCCCCC(C)C)OCC1CO1 | C15H30O2
catalyst | ethyltriphenylphosphonium bromide | 0.2 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-[4-(1,1-dioxo-thiomorpholin-4-yl)-phenoxy]-3-(isododecyloxy)-propan-2-ol | 1.4 g, 30% | O=S1(CCN(CC1)C1=CC=C(OCC(COCCCCCCCCCC(C)C)O)C=C1)=O | C25H43NO5S
